US05614469
20. Preparation of N-(4-Ethoxy-3-pyridinyl)-5-methoxy-7-methyl[1,2,4]triazolo[1,5-c]pyrimidine-2-sulfonamide
2-Chlorosulfonyl-5-methoxy-7-methyl[1,2,4]triazolo[1,5-c]pyrimidine (1.5 g, 5.7 mmol) was added to a solution of 0.8 g (5.7 mmol) of 3-amino-4-ethoxypyridine in 30 mL of dry pyridine in portions over 10 minutes with stirring. After 16 hours the reaction mixture was poured into 400 mL of dichloromethane. The resulting mixture was washed with 150 mL of water, dried over magnesium smlfate, and filtered. The liltrate was combined with 5 g of silica gel and the mixture was concentrated by evaporation under reduced pressure. The resulting silica plug was placed onto a 200 g silica gel column and eluted with dichloromethane containing increasing amount of ethanol. The product fractions were combined and concentrated by evaporation under reduced pressure and the solid obtained was dried to obtain 0.75 g (36 percent of theory) of the title compound as a white solid melting at 184°-186° C.

reactant | 2-Chlorosulfonyl-5-methoxy-7-methyl[1,2,4]triazolo[1,5-c]pyrimidine | 5.7 mmol, 1.5 g | ClS(=O)(=O)C1=NN2C(=NC(=CC2=N1)C)OC | C7H7ClN4O3S
reactant | 3-amino-4-ethoxypyridine | 5.7 mmol, 0.8 g | NC=1C=NC=CC1OCC | C7H10N2O
reactant | dichloromethane | 400 mL | ClCCl | CH2Cl2
solvent | pyridine | 30 mL | N1=CC=CC=C1 | C5H5N
product | N-(4-Ethoxy-3-pyridinyl)-5-methoxy-7-methyl[1,2,4]triazolo[1,5-c]pyrimidine-2-sulfonamide | C(C)OC1=C(C=NC=C1)NS(=O)(=O)C1=NN2C(=NC(=CC2=N1)C)OC | C14H16N6O4S
